resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.991543
R2 0 n2 20.972146
R3 0 n4 1.004152
R4 n1 n3 0.985481
R5 n1 n5 0.993768
R6 n2 n3 0.981408
R7 n2 n6 0.992808
R8 n3 n7 0.986387
R9 n4 n5 0.981926
R10 n4 n6 1.012863
R11 n5 n7 0.980213
R12 n6 n7 0.996606
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
